US06660753B2
3-(3-(5-Dimethylaminopentyloxy)-pyrid-2-yl)-5-(3-Cyano-5-fluorophenyl)-1,2,4-oxadiazole
Alternatively, treatment of 3-(3-fluoropyrid-2-yl)-5-(3-fluoro-5-cyanophenyl)-1,2,4-oxadiazole with potassium 5-dimethylaminopentyloxide in N.N-dimethylformamide with a catalytic amount of 1, 4, 7, 10, 13, 16-hexaoxacyclooctadecane (18-crown-6) and heating at 110° C. affords crude product. Standard work up and purification by one or more methods, including silica gel chromatography, recystallization, trituration, and reversed-phase high-performance liquid chromatography (RP-HPLC) affords purified 3-(3-(5-dimethylaminopentyloxy)-pyrid-2-yl)-5-(3-cyano-5-fluorophenyl)-1,2,4-oxadiazole.

reactant | 3-(3-fluoropyrid-2-yl)-5-(3-fluoro-5-cyanophenyl)-1,2,4-oxadiazole | FC=1C(=NC=CC1)C1=NOC(=N1)C1=CC(=CC(=C1)C#N)F | C14H6F2N4O
reactant | potassium 5-dimethylaminopentyloxide | CN(CCCCCOCCCCCN(C)C)C.[K]
solvent | N.N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(3-(5-Dimethylaminopentyloxy)-pyrid-2-yl)-5-(3-Cyano-5-fluorophenyl)-1,2,4-oxadiazole | CN(CCCCCOC=1C(=NC=CC1)C1=NOC(=N1)C1=CC(=CC(=C1)F)C#N)C | C21H22FN5O2
